US04634713
A mixture of 1600 g of 1-(p-acetamidophenyl)-3-(2-chloroethyl) urea in 7200 ml of dimethylformamide is stirred at room temperature under an atmosphere of nitrogen. To the resulting solution is added a solution of 400 g of sodium methoxide in 2000 ml of methyl alcohol (anhydrous) in a thin stream over a 90-minute period. The temperature rises during the addition. The reaction mixture is stirred for an additional 20 minutes and then heated to 70°-75° and kept at this temperature for 1 hour. The reaction mixture is then allowed to cool slowly to 32° over a period of about 3 hours with stirring; 5000 ml of ice-water is then added rapidly. Stirring at room temperature is continued for 4 hours and the mixture is allowed to stand at room temperature overnight. The solid is filtered off and washed with 3000 ml of water and air-dried for about 2 days at room temperature to give 1-(p-acetamidophenyl)-2-imidazolidinone, m.p. 270°-273°.

reactant | 1-(p-acetamidophenyl)-3-(2-chloroethyl) urea | 1600 g | C(C)(=O)NC1=CC=C(C=C1)NC(=O)NCCCl | C11H14ClN3O2
reactant | sodium methoxide | 400 g | C[O-].[Na+]
solvent | dimethylformamide | 7200 ml | CN(C=O)C | C3H7NO
solvent | methyl alcohol | 2000 ml | CO | CH4O
product | 1-(p-acetamidophenyl)-2-imidazolidinone | C(C)(=O)NC1=CC=C(C=C1)N1C(NCC1)=O | C11H13N3O2
